US06133271
Following the procedure of Example 1, the reaction of 3,4-methylenedioxybenzylamine with 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine gives 2-chloro-5,6,7,8-tetrahydro-4-(3,4-methylenedioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine Mp. 222° C.

reactant | 3,4-methylenedioxybenzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 2,4-dichloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)Cl | C10H8Cl2N2S
product | 2-chloro-5,6,7,8-tetrahydro-4-(3,4-methylenedioxybenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC2=C(C=C1)OCO2 | C18H16ClN3O2S
